US05061706
A solution of 0.4 g (1.48 mmol) 7-cyano-1-hydroxy-6-trifluoromethylquinoxaline -2,3(1H,4H)-dione in 50 ml dry tetrahydrofuran was added 0.225 ml (1.63 mmol) dry triethylamine and 0.2 ml (1.58 mmol) phenyl chloroformate. The mixture was stirred at 25° C. for 30 min., and then filtered and evaporated in vacuo. The residue was stirred with ether to give 0.48 g (83%) of 7-cyano-1-phenoxycarbonyloxy-6-trifluoromethylquinoxaline-2,3-(1H,4H)-dione. M.p. 190° C. decomp. 1H-NMR (DMSO-d6): 8.43 (1H,s), 7.63 (1H, s), 7.3 (5H, broad s).

reactant | 7-cyano-1-hydroxy-6-trifluoromethylquinoxaline -2,3(1H,4H)-dione | 1.48 mmol, 0.4 g | C(#N)C1=C(C=C2NC(C(N(C2=C1)O)=O)=O)C(F)(F)F | C10H4F3N3O3
reactant | triethylamine | 1.63 mmol, 0.225 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 1.58 mmol, 0.2 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 7-cyano-1-phenoxycarbonyloxy-6-trifluoromethylquinoxaline-2,3-(1H,4H)-dione | 0.48 g, 83% | C(#N)C1=C(C=C2NC(C(N(C2=C1)OC(=O)OC1=CC=CC=C1)=O)=O)C(F)(F)F | C17H8F3N3O5
